US04316932
393.3 g (1.25 mol) of 1,1,1-trichloro-2-hydroxy-3-(1,2,4-triazol-1-yl)-5,5-dimethyl-hexan-4-one were introduced into 750 ml of thionyl chloride, while stirring, and the mixture was heated to 60° C. for 36 hours. Thereafter, the excess thionyl chloride was distilled off in vacuo. The residue was taken up in 1.5 liters of methylene chloride and the methylene chloride mixture was washed with 10% strength sodium bicarbonate solution until neutral, dried over sodium sulphate and concentrated by distilling off the solvent in vacuo. 408.9 g (98% theory) of 1,1,1,2-tetrachloro-3-(1,2,4-triazol-1-yl)-5,5-dimethyl-hexan-4-one of melting point 111°-113° C. were obtained.

reactant | 1,1,1-trichloro-2-hydroxy-3-(1,2,4-triazol-1-yl)-5,5-dimethyl-hexan-4-one | 1.25 mol, 393.3 g | ClC(C(C(C(C(C)(C)C)=O)N1N=CN=C1)O)(Cl)Cl | C10H14Cl3N3O2
reactant | thionyl chloride | 750 ml | S(=O)(Cl)Cl | Cl2OS
product | 1,1,1,2-tetrachloro-3-(1,2,4-triazol-1-yl)-5,5-dimethyl-hexan-4-one | 408.9 g, 98% | ClC(C(C(C(C(C)(C)C)=O)N1N=CN=C1)Cl)(Cl)Cl | C10H13Cl4N3O
